US06977262B2
Ethyl 6-ethyl-4,7-dihydro-4-(2-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-methoxybenzaldehyde, 3-aminopyrazole and ethyl 3-ketopentanoate in the same manner as in Example 1.

reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketopentanoate | O=C(CC(=O)OCC)CC | C7H12O3
product | Ethyl 6-ethyl-4,7-dihydro-4-(2-methoxyphenyl)-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C)C1=C(C(C=2C(N1)=NNC2)C2=C(C=CC=C2)OC)C(=O)OCC | C18H21N3O3
